US06525042B1
2-[4-[[4-(tert-Butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide
At −10° C., metachloroperbenzoic acid (789 mg) was added to a solution of 1-tert-butoxycarbonyl-4-[4-(2-pyridyl)benzoyl]piperazine (517 mg) in dichloromethane (dichloromethane: 8 ml). The resulting mixture was stirred for 24 hours, followed by dilution with dichloromethane. A small amount of an aqueous sodium thiosulfate solution and saturated saline were added to the dilute solution. The organic layer so separated was washed with a saturated aqueous solution of sodium bicarbonate and saturated saline and then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane:methanol=20:1), whereby the title compound (415 mg, 77%) was obtained.

reactant | metachloroperbenzoic acid | 789 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-tert-butoxycarbonyl-4-[4-(2-pyridyl)benzoyl]piperazine | 517 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C21H25N3O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-[4-[[4-(tert-Butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=[N+](C=CC=C1)[O-] | C21H25N3O4
